US05366993
E. 3-(3-Cyclododecyl-1-oxopropyl)-4-hydroxy-2(5H)-furanone
To a solution of 0.70 g (7 mmol) of tetronic acid in 20 ml of dry dimethylformamide at 0° C. is added 1.1 ml (836 mg, 8.3 mmol) of triethylamine and 0.31 g (2.5 mmol) of dimethylaminopyridine. After stirring for 5 minutes, 2.0 g (8.3 mmol) of 3-cyclododecylpropanoic acid is added followed by 1.6 g (8.3 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. After 10 minutes the ice bath is removed and the reaction mixture is allowed to stir overnight at room temperature. The reaction mixture is then poured into 1.0N hydrochloric acid and extracted 3 times with ethyl acetate. The organic layers are combined, washed with brine, dried over magnesuim sulfate, filtered and concentrated to give a yellow oil. The oil is subjected to flash chromatography using acidic silica gel and hexane/ethyl acetate (3:2) as the mobile phase to give an off white solid: m.p. 99°-102° C.; IR (KBr) 2940, 1710, 1600 and 1470 cm-1 ; NMR (CDCl3) (mixture of tautomeric forms) δ1.34 (mc, 22H), 1.50 (bs, 1H), 1.61 (m, 2H), 2.92 (m, 2H), 4.55 and 4.70 (s, 2H); MS (EI) Anal. Calc'd. for C19H30O4 : C, 67.87; H, 5.70; Found: C, 67.62; H, 5.98.

reactant | tetronic acid | 7 mmol, 0.70 g | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 8.3 mmol, 1.1 ml, 836 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 2.5 mmol, 0.31 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-cyclododecylpropanoic acid | 8.3 mmol, 2.0 g | C1(CCCCCCCCCCC1)CCC(=O)O | C15H28O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8.3 mmol, 1.6 g | Cl.CN(CCCN=C=NCC)C
reactant | KBr | [K+].[Br-]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(3-Cyclododecyl-1-oxopropyl)-4-hydroxy-2(5H)-furanone | C1(CCCCCCCCCCC1)CCC(=O)C=1C(OCC1O)=O | C19H30O4
